US08865752B2
A solution of N-(4-(2-ethylbutanoyl)phenyl)acetamide (730 mg, 3.13 mmol) in MeOH (20 mL) was cooled in an ice bath under N2 and treated with NaBH4 (148 mg, 3.91 mmol), added in one portion. The reaction vessel was removed from the ice bath and stirred overnight at RT. The reaction was concentrated and partitioned between DCM and half-saturated NaHCO3. The aqueous phase was extracted four times with DCM and the organic extracts were combined and dried over MgSO4, filtered and then concentrated. The crude product was purified by preparative TLC using 50% ethyl acetate in hexane as eluent to afford N-(4-(2-ethyl-1-hydroxybutyl)phenyl)acetamide as white solid. MS (ES+): m/z 236.24 (MH+).

reactant | N-(4-(2-ethylbutanoyl)phenyl)acetamide | 3.13 mmol, 730 mg | C(C)C(C(=O)C1=CC=C(C=C1)NC(C)=O)CC | C14H19NO2
reactant | NaBH4 | 3.91 mmol, 148 mg | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | N-(4-(2-ethyl-1-hydroxybutyl)phenyl)acetamide | C(C)C(C(O)C1=CC=C(C=C1)NC(C)=O)CC | C14H21NO2
